US07122548B2
A solution of 3-(4-hydroxy-benzyl)-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-7-ol (170 mg, 0.62 mmol) in POCl3 (5 mL) was heated at 80° C. for 15 minutes, and then POCl3 was evaporated. The residue was purified on a silica gel column eluting with 5% methanol in dichloromethane to provide 4-(7-chloro-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol (80 mg). MS (m/z) 275 [M+1].

reactant | 3-(4-hydroxy-benzyl)-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-7-ol | 0.62 mmol, 170 mg | OC1=CC=C(CC2=NN=C3N2N=C(C(=N3)O)C)C=C1 | C12H11N5O2
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(7-chloro-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol | 80 mg | ClC1=NC=2N(N=C1C)C(=NN2)CC2=CC=C(C=C2)O | C12H10ClN5O
